US06008243
According to the procdure described in Example 13 for the preparation of 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-2-hydroxy-ethanone, 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)ethane-1,2-dione was reduced with NaBH4 to give in quantitative yield 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)-2-hydroxy-ethanone. 1H NMR: δ 7.70 (d, 2H, J=7.7 Hz), 7.61 (d, 4H, J=8.5 Hz), 7.45 (t, 2H, J=7.4 Hz), 7.38-7.19 (m, 6H), 6.64 (d, 1H, J=2.9 Hz), 6.43 (d, 1H, J=3.3 Hz), 5.08 (d, 1H, J=6.6 Hz), 4.45 (d, 1H, J=7.0 Hz), 3.88-3.85 (m, 1H), 3.78 (d, 1H, J=8.8 Hz), 3.63 (dd, 1H, J=5.2, 8.8 Hz), 3.03 (dd, 1H, J=4.2, 13.1 Hz), 2.89 (dd, 1H, J=9.8, 13.4 Hz), 1.83 (s, 3H), 1.58 (s, 3H). Anal. Calculated for C30H29NO4.0.5 H2O: C, 75.61; H, 6.34; N, 2.94. Found: C, 75.62; H, 6.32; N, 2.88.

reactant | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-2-hydroxy-ethanone | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H30N2O3
reactant | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)ethane-1,2-dione | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(=O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H27NO4
reactant | NaBH4 | [BH4-].[Na+]
product | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)-2-hydroxy-ethanone | quantitative yield | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H29NO4
